US04885306
1-benzenesulfonyl-2-oxo-3-acetoxy-5-ethoxy-pyrrolidine
A solution of 0.50 g of 1-benzenesulfonyl-2-oxo-3-hydroxy-5-ethoxypyrrolidine (trans isomer) in 10 cm3 anhydrous acetic acid is heated to boiling for 1 hour. It is allowed to cool to room temperature and the acetic anhydride is evaporated. It is dissolved in toluene and the azeotrope is evaporated under reduced pressure. The residue is chromatographed on silica by elution with a mixture of ethylacetate-hexane (1-1); 0.48 g of the expected product is obtained.

reactant | 1-benzenesulfonyl-2-oxo-3-hydroxy-5-ethoxypyrrolidine | 0.50 g | C1(=CC=CC=C1)S(=O)(=O)N1C(C(CC1OCC)O)=O | C12H15NO5S
reactant | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | 1-benzenesulfonyl-2-oxo-3-acetoxy-5-ethoxy-pyrrolidine | 0.48 g | C1(=CC=CC=C1)S(=O)(=O)N1C(C(CC1OCC)OC(C)=O)=O | C14H17NO6S
